US06458780B1
t-Butyldimethylsilyl chloride (0.30 g) and 0.33 ml of triethylamine were added to a solution of 0.20 g of 7-sulfamoylimidazo[5,1-b]thiazole in 5ml of DMF. The mixture was stirred at room temperature for one hr. Ethyl acetate was added to the reaction mixture, followed by washing with water and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 0.34 g of 7-(t-butyldimethylsilylsulfamoyl)imidazo[5,1-b]thiazole.

reactant | t-Butyldimethylsilyl chloride | 0.30 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | 7-sulfamoylimidazo[5,1-b]thiazole | 0.20 g | S(N)(=O)(=O)C=1N=CN2C1SC=C2 | C5H5N3O2S2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5ml | CN(C)C=O | C3H7NO
product | 7-(t-butyldimethylsilylsulfamoyl)imidazo[5,1-b]thiazole | 0.34 g | [Si](C)(C)(C(C)(C)C)NS(=O)(=O)C=1N=CN2C1SC=C2 | C11H19N3O2S2Si
